US08871797B2
{2-[2-(4-Bromo-2-methyl-2H-pyrazol-3-yl)-4-nitro-phenoxy]-ethyl}-dimethyl-amine (0.128 g, 0.35 mmol) was treated with SnCl2.2H2O (0.319 g, 1.39 mmol, 4.0 equiv.) in EtOH (20 mL), in a similar manner as described in Example 1.1, providing 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-dimethylamino-ethoxy)-phenylamine (0.067 g, 0.20 mmol, 56%) as an oil. LCMS m/z (%)=339 (M+H79Br, 78), 341 (M+H81Br, 100). 1H NMR (400 MHz, acetone-d6) δ: 7.68 (dd, J=2.5, 8.9 Hz, 1H), 7.55 (s, 1H), 7.45-7.51 (m, 2H), 4.62-4.82 (m, 2H), 3.76 (s, 3H), 3.65-3.76 (m, 2H), 2.87 (s, 6H).

reactant | {2-[2-(4-Bromo-2-methyl-2H-pyrazol-3-yl)-4-nitro-phenoxy]-ethyl}-dimethyl-amine | 0.35 mmol, 0.128 g | BrC1=C(N(N=C1)C)C1=C(OCCN(C)C)C=CC(=C1)[N+](=O)[O-] | C14H17BrN4O3
reactant | SnCl2.2H2O | 1.39 mmol, 0.319 g, 4.0 equiv. | O.O.Cl[Sn]Cl
solvent | EtOH | 20 mL | CCO | C2H6O
product | 3-(4-bromo-2-methyl-2H-pyrazol-3-yl)-4-(2-dimethylamino-ethoxy)-phenylamine | 0.20 mmol, 0.067 g, 56% | BrC1=C(N(N=C1)C)C=1C=C(C=CC1OCCN(C)C)N | C14H19BrN4O
